US07834030B2
500 mg commercially available 2-Bromo-4-fluorobenzonitrile, 70 mg tricyclohexylphosphine, 2.04 g tri potassium phosphate mono hydrate and 278 mg cyclopropylboronic acid placed in a reaction vessel and 11 ml toluene were added. The mixture was degassed with argon, then 561 mg palladium(II)acetate were added and the reaction mixture stirred at 100° C. for 1.5 hours. To the cooled reaction mixture was added 30 ml water and the mixture was extracted five times with portions of 30 ml ethyl acetate. The combined organic layers were dried over MgSO4, the solvent removed in vacuo and the resulting residue purified on silica gel with the eluent heptane=>n-heptane:ethyl acetate=5:1 to obtain 310 mg 2-Cyclopropyl-4-fluoro-benzonitrile as yellow solid.

reactant | 2-Bromo-4-fluorobenzonitrile | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | tricyclohexylphosphine | 70 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tri potassium phosphate mono hydrate | 2.04 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | cyclopropylboronic acid | 278 mg | C1(CC1)B(O)O | C3H7BO2
solvent | water | 30 ml | O | H2O
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-4-fluoro-benzonitrile | 310 mg | C1(CC1)C1=C(C#N)C=CC(=C1)F | C10H8FN
